US07868046B2
(2R)-2-(4-Aminophenyl)propanamide (0.5 g, 3.05 mmol) was dissolved in pyridine (2 mL) and 2-propanesulfonyl chloride (0.53 mL, 3.66 mmol) was added. The resulting solution was refluxed for 4 h and left overnight at room temperature. After the complete disappearance of the starting amide, the solution was diluted with Et2O (10 mL) and the organic layer washed with 1N HCl (2×5 mL), with H2O (2×5 mL), dried over Na2SO4, filtered and evaporated under vacuum to give (2R)-2-{(4-[(isopropylsulfonyl)amino]phenyl}propanamide as pale yellow solid (667 mg, 2.47 mmol). Yield 81%. mp 125-127° C.; [α]D25 (c=0.3, CH3OH): −12.7°; 1H-NMR (DMSO-d6) δ 9.65 (bs, 1H, SO2NH), 7.40 (bs, 1H, CONH2), 7.25 (d, 2H, J=7 Hz), 7.12 (d, 2H, J=7 Hz), 6.80 (bs, 1H, CONH2), 3.52 (q, 1H, J=7 Hz), 3.15 (m, 1H), 1.22 (d, 3H, J=7 Hz), 1.18 (d, 6H, J=7 Hz).

reactant | (2R)-2-(4-Aminophenyl)propanamide | 3.05 mmol, 0.5 g | NC1=CC=C(C=C1)[C@H](C(=O)N)C | C9H12N2O
reactant | 2-propanesulfonyl chloride | 3.66 mmol, 0.53 mL | CC(C)S(=O)(=O)Cl | C3H7ClO2S
solvent | pyridine | 2 mL | N1=CC=CC=C1 | C5H5N
solvent | Et2O | 10 mL | CCOCC | C4H10O
product | (4-[(isopropylsulfonyl)amino]phenyl}propanamide | 2.47 mmol, 667 mg, Yield 81% | C(C)(C)S(=O)(=O)NC1=CC=C(C=C1)C(C(=O)N)C | C12H18N2O3S
